US07056937B2
Step A: Preparation of 4-methyl-3-oxo-3,4-dihydro-1H-quinoxalin-2-ylidene-acetic acid ethyl ester
To a solution of N-methyl-1,2-phenylenediamine (6.1 g, 4.99 mmol) in MeOH (50 mL) was added in portion of oxalacetic acid diethyl ester (9.9 g, 5.26 mmol). The mixture was then stirred at rt for 1 h. The precipitate was collected via filtration and was washed with small amount of methanol to yield a pale brownish solid as the pure product: 1H NMR (DMSO-d6) δ=11.1 (bs, 1H), 7.45–7.42 (m, 1H), 7.32–7.29 (m, 1H), 7.15–7.10 (m, 2H), 5.53 (s, 1H), 4.14 (q, J=9.0 Hz, 2H), 3.51 (s, 3H), 1.23 (t, J=9.0 Hz, 3H); HPLC (CH3CN—H2O-0.1% TFA) (short column): Rt=3.91 min.

reactant | N-methyl-1,2-phenylenediamine | 4.99 mmol, 6.1 g | CNC1=C(C=CC=C1)N | C7H10N2
reactant | oxalacetic acid diethyl ester | 5.26 mmol, 9.9 g | C(C)OC(CC(=O)C(=O)OCC)=O | C8H12O5
reactant | CH3CN—H2O | CC#N.O
solvent | MeOH | 50 mL | CO | CH4O
product | 4-methyl-3-oxo-3,4-dihydro-1H-quinoxalin-2-ylidene-acetic acid ethyl ester | C(C)OC(C=C1NC2=CC=CC=C2N(C1=O)C)=O | C13H14N2O3
